US07265126B2
rac-4-Phenyl-8-(1-m-tolyl-cyclohexyl)-2,8-diaza-spiro[4.5]decan-1-one
To a solution of 3-iodotoluene (388 mg, 1.8 mmol) in dry THF (6 mL) under argon at -60° C. was added isopropylmagnesium chloride (2 M solution in THF, 977 μL, 2.0 mmol) and the resulting solution allowed to warm up to 0° C. over 1 h and then to room temperature over 10 min. The resulting solution was then added dropwise to a solution of rac-1-(1-oxo-4-phenyl-2,8-diaza-spiro[4.5]dec-8-yl)-cyclohexanecarbonitrile (200 mg, 0.6 mmol) in dry THF (3 mL) and the solution stirred overnight at room temperature. The reaction was quenched by the addition of ammonium chloride solution (sat., 10 mL) and the product extracted with ethyl acetate (2×20 mL). The combined organic extracts were then washed with brine (20 mL), dried over sodium sulfate, filtered and evaporated. The residue was purified by chromatography on silica gel eluting with DCM:MeOH:NH4OH (95:4.5:0.5) to afford the title compound (170 mg, 71%) as a white solid. MS: m/e=403.6 (M+H).

reactant | 3-iodotoluene | 1.8 mmol, 388 mg | IC=1C=C(C=CC1)C | C7H7I
reactant | isopropylmagnesium chloride | 2.0 mmol, 2 M, 977 μL | C(C)(C)[Mg]Cl
reactant | rac-1-(1-oxo-4-phenyl-2,8-diaza-spiro[4.5]dec-8-yl)-cyclohexanecarbonitrile | 0.6 mmol, 200 mg | O=C1NCC(C12CCN(CC2)C2(CCCCC2)C#N)C2=CC=CC=C2 | C21H27N3O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | rac-4-Phenyl-8-(1-m-tolyl-cyclohexyl)-2,8-diaza-spiro[4.5]decan-1-one | 170 mg, 71% | C1(=CC=CC=C1)C1CNC(C12CCN(CC2)C2(CCCCC2)C=2C=C(C=CC2)C)=O | C27H34N2O
